US07812183B2
(3S,4R)-3-Chloro-N-(6-cyano-3-hydroxy-2,2-dimethyl-chroman-4-yl)-benzenesulfonamide (Compound #66)
Following the procedure in Example 105, using (3S,4R)-4-amino-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile and 3-chloro-benzenesulfonyl chloride as starting materials, the title compound was prepared as a pale yellow solid.

reactant | (3S,4R)-4-amino-3-hydroxy-2,2-dimethyl-chroman-6-carbonitrile | N[C@H]1[C@@H](C(OC2=CC=C(C=C12)C#N)(C)C)O | C12H14N2O2
reactant | 3-chloro-benzenesulfonyl chloride | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
product | (3S,4R)-3-Chloro-N-(6-cyano-3-hydroxy-2,2-dimethyl-chroman-4-yl)-benzenesulfonamide | ClC=1C=C(C=CC1)S(=O)(=O)N[C@H]1[C@@H](C(OC2=CC=C(C=C12)C#N)(C)C)O | C18H17ClN2O4S
